US05728829
N-((3R)-1-tert-Butylcarbonylmethyl-2,3-dihydro-2-oxo-5-(2-pyridyl)-1H-1,4-benzodiazepin-3-yl)-N'-(3-dimethylaminophenyl)urea hydrochloride
N-((3R)-1-tert-Butylcarbonylmethyl-2,3-dihydro-2-oxo-5-(2-pyridyl)-1H-1,4-benzodiazepin-3-yl)-N'-(3-dimethylaminophenyl)urea (70 g, 136.6 mmol) was taken up in ethanol (1 l) and 2.26M HCl ethanol (63.5 ml, 143.4 mmol) was added dropwise. The mixture was warmed up to 50° C. to afford a clear solution, which was seeded, cooled to 0° C. and stirred at the same temperature overnight. The resultant precipitate was collected by flirtation to provide the title compound as a white crystalline (62.4 g, 82%): top. 181°-184° C.

reactant | N-((3R)-1-tert-Butylcarbonylmethyl-2,3-dihydro-2-oxo-5-(2-pyridyl)-1H-1,4-benzodiazepin-3-yl)-N'-(3-dimethylaminophenyl)urea | 136.6 mmol, 70 g | C(C)(C)(C)C(=O)CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=NC=CC=C2)NC(=O)NC2=CC(=CC=C2)N(C)C)=O | C29H32N6O3
reactant | HCl ethanol | 143.4 mmol, 2.26M, 63.5 ml | C(C)O.Cl
solvent | ethanol | 1 l | C(C)O | C2H6O
product | N-((3R)-1-tert-Butylcarbonylmethyl-2,3-dihydro-2-oxo-5-(2-pyridyl)-1H-1,4-benzodiazepin-3-yl)-N'-(3-dimethylaminophenyl)urea hydrochloride | Cl.C(C)(C)(C)C(=O)CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=NC=CC=C2)NC(=O)NC2=CC(=CC=C2)N(C)C)=O | InChI=1S/C29H32N6O3.ClH/c1-29(2,3)24(36)18-35-23-15-7-6-13-21(23)25(22-14-8-9-16-30-22)32-26(27(35)37)33-28(38)31-19-11-10-12-20(17-19)34(4)5;/h6-17,26H,18H2,1-5H3,(H2,31,33,38);1H/t26-;/m0./s1
